US07731985B2
Preparation of 4-dodecylamino-2-isopropyl-6-methylpyrimidine (Compound of Formula (93)
79.2 g of 4-chloro-2-isopropyl-6-methylpyrimidine (464.1 mmol) are heated in 100 ml of dioxane at 100° C. A heated solution of 189.3 g of dodecylamine (1021 mmol, 2.2 eq) in 30 ml of dioxane is added dropwise thereto over the course of 2 hours, and the reaction mixture is further heated for 2 hours at 100° C. and for 9 hours at 109° C. After cooling, 400 ml of ethyl acetate and 150 ml of 4M sodium hydroxide solution (600 mmol) are added thereto and the mixture is stirred at 50° C. for 10 minutes. The lower, aqueous phase is discarded, the organic phase is washed with 300 ml of water, and 10 ml of saturated NaCl solution are added thereto. The organic phase is separated off and concentrated, and the excess dodecylamine is distilled in vacuo up to a bath temperature of 160° C. 136.1 g (91.8%); GC purity: 98%

reactant | 4-chloro-2-isopropyl-6-methylpyrimidine | 464.1 mmol, 79.2 g | ClC1=NC(=NC(=C1)C)C(C)C | C8H11ClN2
reactant | dodecylamine | 1021 mmol, 189.3 g, 2.2 eq | C(CCCCCCCCCCC)N | C12H27N
reactant | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | 600 mmol, 4M, 150 ml | [OH-].[Na+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 4-dodecylamino-2-isopropyl-6-methylpyrimidine | C(CCCCCCCCCCC)NC1=NC(=NC(=C1)C)C(C)C | C20H37N3
